US07943609B2
(11S)-11-Methyl-2-[(2-methyl-1,3-thiazol-4-yl)methoxy]-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine
A solution of (11S)-6-amino-11-methyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-2-ol (500 mg, 1.85 mmol) dissolved in 15 mL of DMF was treated with cesium carbonate (1.80 g, 5.55 mmol), 4-chloromethyl-2-methylthiazole hydrochloride (375 mg, 2.03 mmol) and tetrabutylammonium bromide (715 mg, 2.22 mmol). After stirring overnight at 50° C., the dark brown mixture was poured into 150 mL of H2O and stirred for 30 minutes. The reaction mixture was extracted with CHCl3 (3×75 mL) and the combined extracts were dried over MgSO4, filtered and concentrated under reduced pressure to give a brown solid. Chromatography (SiO2, 0-20% CMA/CHCl3) gave an off-white solid which was crystallized from acetonitrile to give 237 mg of the title compound as an off-white solid, mp 105-107° C. 1H NMR (500 MHz, DMSO-d6) δ 7.59 (s, 1H), 7.57 (s, 1H), 7.51 (d, J=2.7 Hz, 1H), 7.19 (dd, J=2.7, 9.1 Hz, 1H), 6.35 (br s, 2H), 5.25 (m, 2H), 5.14 (m, 1H), 5.09 (d, J=15.5 Hz, 1H), 4.95 (d, J=15.5 Hz, 1H), 4.14 (m, 2H), 2.67 (s, 3H), 1.54 (d, J=6.5 Hz, 3H); 13C NMR (125 MHz, DMSO-d6) δ 165.6, 152.7, 151.5, 150.3, 145.0, 139.6, 130.9, 127.4, 126.7, 117.6, 116.9, 114.3, 102.8, 68.2, 65.6, 64.6, 49.8, 19.0, 18.6; MS (APCI) m/z 382 (M+H)+. Anal. calcd for Cl9H19N5O2.0.75 C4H8O2.0.33H2O: C, 58.88; H, 5.28; N, 19.26. Found: C, 58.62; H, 4.96; N, 19.10.

reactant | (11S)-6-amino-11-methyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-2-ol | 1.85 mmol, 500 mg | NC1=NC2=CC=C(C=C2C2=C1N=C1N2[C@H](COC1)C)O | C14H14N4O2
reactant | cesium carbonate | 5.55 mmol, 1.80 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-chloromethyl-2-methylthiazole hydrochloride | 2.03 mmol, 375 mg | Cl.ClCC=1N=C(SC1)C
reactant | H2O | 150 mL | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium bromide | 2.22 mmol, 715 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (11S)-11-Methyl-2-[(2-methyl-1,3-thiazol-4-yl)methoxy]-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine | 237 mg | C[C@H]1COCC=2N1C1=C(C(=NC3=CC=C(C=C13)OCC=1N=C(SC1)C)N)N2 | C19H19N5O2S
